US05958910
A mixture of 0.5 g of 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrobromide with 0.43 g of 3,4-dimethoxy-benzenesulfonyl chloride was stirred overnight with 2 ml of pyridine. The resulting, red colored suspension was poured into 30 ml of 1N hydrochloric acid and the organic phase was separated and dissolved in a mixture of 20 ml of ethanol and 20 ml of 2N sodium hydroxide solution. After the addition of 0.5 g of active charcoal the mixture was stirred at room temperature for 30 minutes and subsequently the active charcoal was filtered off. The product separated as an oil upon neutralization and was thereupon treated once more with active charcoal. The product separated upon renewed neutralization with concentrated hydrochloric acid. Recrystallization from 25 ml of 60% ethanol yielded 0.12 g of 3,4-dimethoxy-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide as colourless crystals.

reactant | 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrobromide | 0.5 g | Br.[N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)N
reactant | 3,4-dimethoxy-benzenesulfonyl chloride | 0.43 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-dimethoxy-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide | 0.12 g | COC=1C=C(C=CC1OC)S(=O)(=O)NC=1SC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C17H15N3O6S2
